### PR TITLE
[Merged by Bors] - feat(AlgebraicGeometry): morphisms into separated schemes are determined by a dense subset

### PR DESCRIPTION
**Pull request by erdOne**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicGeometry/Morphisms/Separated.lean [hunk 1]
```diff
@@ -86,7 +85,7 @@ instance (R S : CommRingCat.{u}) (f : R ⟶ S) : IsSeparated (Spec.map f) := by
     (Algebra.TensorProduct.lmul'_apply_tmul (R := R) (S := S) 1 x).trans (one_mul x)⟩
 
 instance (priority := 100) [h : IsAffineHom f] : IsSeparated f := by
-  clear g Z
+  clear * - h
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Morphisms/Separated.lean:88]: It's sad that these `wlog` proofs break every time you add a section variable.

File: Mathlib/AlgebraicGeometry/Morphisms/Separated.lean [hunk 2]
```diff
@@ -128,6 +127,35 @@ lemma IsSeparated.of_comp [IsSeparated (f ≫ g)] : IsSeparated f := by
...
+instance isClosedImmersion_equalizer_ι_left {S : Scheme} {X Y : Over S} [IsSeparated Y.hom]
+    (f g : X ⟶ Y) : IsClosedImmersion (equalizer.ι f g).left := by
+  refine IsClosedImmersion.stableUnderBaseChange
+    ((Limits.isPullback_equalizer_prod f g).map (Over.forget _)).flip ?_
+  rw [← MorphismProperty.cancel_right_of_respectsIso @IsClosedImmersion _
+    (Over.prod_left_iso_pullback Y Y).hom]
+  convert (inferInstanceAs (IsClosedImmersion (pullback.diagonal Y.hom)))
+  ext1 <;> simp [Over.prod_left_iso_pullback, ← Over.comp_left]
+
+lemma ext_of_isDominant [IsReduced X] {f g : X ⟶ Y}
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Morphisms/Separated.lean:139]: I think this lemma deserves a docstring. Please mention something like "reduced to separated" and if you have the tag at hand, you could also use the shiny `@[stacks ...]`

File: Mathlib/CategoryTheory/Limits/Shapes/Connected.lean [hunk 3]
```diff
@@ -0,0 +1,33 @@
...
+Authors: Andrew Yang
+-/
+import Mathlib.CategoryTheory.IsConnected
+import Mathlib.CategoryTheory.Limits.Shapes.WidePullbacks
+
+/-!
+
+# Connected shapes
+
+-/
```
Comment (chrisflav) [inline Mathlib/CategoryTheory/Limits/Shapes/Connected.lean:13]: Could you add some docstring here?

File: Mathlib/CategoryTheory/Limits/Shapes/Pullback/Over.lean [hunk 4]
```diff
@@ -0,0 +1,68 @@
...
+
+/-!
+
+# Products in over categories are pullbacks
+
+## TODO
+- Dualize to under categories
+- Generalize to wide pullbacks
+
+-/
```
Comment (chrisflav) [inline Mathlib/CategoryTheory/Limits/Shapes/Pullback/Over.lean:17]: I thinks this can go into `Mathlib.CategoryTheory.Limits.Constructions.Over.Products` and maybe you can recycle some of the results from there?

File: Mathlib/AlgebraicGeometry/Morphisms/UnderlyingMap.lean [hunk 5]
```diff
@@ -176,6 +176,19 @@ instance IsDominant.isLocalAtTarget : IsLocalAtTarget @IsDominant :=
   dominant_eq_topologically ▸ topologically_isLocalAtTarget' DenseRange
     fun _ _ _ hU _ ↦ denseRange_iff_denseRange_of_iSup_eq_top hU
 
+lemma surjective_of_isDominant_of_isClosed_range (f : X ⟶ Y) [IsDominant f]
+    (hf : IsClosed (Set.range f.base)) :
+    Surjective f :=
+    ⟨by rw [← Set.range_iff_surjective, ← hf.closure_eq, f.denseRange.closure_range]⟩
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Morphisms/UnderlyingMap.lean:182]:
```suggestion
  ⟨by rw [← Set.range_iff_surjective, ← hf.closure_eq, f.denseRange.closure_range]⟩
```

File: Mathlib/AlgebraicGeometry/Morphisms/Separated.lean (hunk 1 above)
Comment (erdOne) [reply Mathlib/AlgebraicGeometry/Morphisms/Separated.lean:88]: I think this change is immune to future alterations.

File: Mathlib/AlgebraicGeometry/Morphisms/Separated.lean (hunk 2 above)
Comment (erdOne) [reply Mathlib/AlgebraicGeometry/Morphisms/Separated.lean]: I don't think this lemma is present verbatim in stacks. It is only some lemma used in a part of a proof. I've provided a docstring for it and a stacks tag for the previous lemma.

File: Mathlib/AlgebraicGeometry/Morphisms/Separated.lean [hunk 6]
```diff
@@ -128,6 +127,40 @@ lemma IsSeparated.of_comp [IsSeparated (f ≫ g)] : IsSeparated f := by
...
+-/
+lemma ext_of_isDominant [IsReduced X] {f g : X ⟶ Y}
+    (s : Y ⟶ Z) [IsSeparated s] (h : f ≫ s = g ≫ s)
+    (ι : W ⟶ X) [IsDominant ι] (hU : ι ≫ f = ι ≫ g) : f = g := by
+  let X' : Over Z := Over.mk (f ≫ s)
+  let Y' : Over Z := Over.mk s
+  let U' : Over Z := Over.mk (ι ≫ f ≫ s)
+  let f' : X' ⟶ Y' := Over.homMk f
+  let g' : X' ⟶ Y' := Over.homMk g
+  let ι' : U' ⟶ X' := Over.homMk ι
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Morphisms/Separated.lean:152]: Only a side comment: If we do these translations more often, which I think is quite probable, it would be great to have an `overize` similar to `algebraize`.

File: Mathlib/AlgebraicGeometry/Morphisms/Separated.lean (hunk 1 above)
Comment (chrisflav) [reply Mathlib/AlgebraicGeometry/Morphisms/Separated.lean:88]: I am still not a big fan of `clear` instead of restructuring section variables, although I thought that the new variable inclusion mechanism should avoid this behavior? (`g`, `Z`, `W` are not mentioned in the statement).

Comment (chrisflav) [reply Mathlib/AlgebraicGeometry/Morphisms/Separated.lean:88]: I think in this case it amounts to moving the composition instance from line 65 near `IsSeparated.of_comp` and make a section there with `variable {Z} (g : Y ⟶ Z)`. Then you have to add one `{Z} (g : Y ⟶ Z)` in L102 and one `{Z W}` in L149.

Comment (erdOne) [reply Mathlib/AlgebraicGeometry/Morphisms/Separated.lean]: How does the new commit look?
(The new variable inclusion mechanism only works for `theorem` and not `instance`)

Comment (chrisflav) [reply Mathlib/AlgebraicGeometry/Morphisms/Separated.lean]: Oh I did not notice that. This is a good solution then.

**Review by chrisflav — APPROVED** [review]
Thanks!
maintainer merge

File: Mathlib/AlgebraicGeometry/Morphisms/Separated.lean [hunk 7]
```diff
@@ -128,6 +127,40 @@ lemma IsSeparated.of_comp [IsSeparated (f ≫ g)] : IsSeparated f := by
...
+  rw [← MorphismProperty.cancel_right_of_respectsIso @IsClosedImmersion _
+    (Over.prodLeftIsoPullback Y Y).hom]
+  convert (inferInstanceAs (IsClosedImmersion (pullback.diagonal Y.hom)))
+  ext1 <;> simp [← Over.comp_left]
+
+/--
+Suppose `X` is a reduced scheme and that `f g : X ⟶ Y` agree over some separated `Y ⟶ Z`.
+Then `f = g` if `ι ≫ f = ι ≫ g` for some dominant `ι`.
+-/
+lemma ext_of_isDominant [IsReduced X] {f g : X ⟶ Y}
```
Comment (jcommelin) [inline Mathlib/AlgebraicGeometry/Morphisms/Separated.lean:144]: Should this be `ext_of_isSeparated_of_isDominant`, and then we have two 1-line special cases where `s` / `\i` is the identity?

Comment (erdOne) [reply Mathlib/AlgebraicGeometry/Morphisms/Separated.lean:144]: If `i` or `s` is the identity then the lemma is trivial I think.
But I can provide one where `s : _ -> Spec Z`.

Comment (jcommelin) [reply Mathlib/AlgebraicGeometry/Morphisms/Separated.lean]: Of course, you are totally right. Thanks for interpreting my comment in a useful way!
